US07253196B2
6-(Cycloheptylamino)-5-thia-7-azaspiro[3.4]oct-6-en-8-one
Synthesis was performed from N-cycloheptylthiourea and ethyl 1-bromocyclobutanecarboxylate according to Method D.

reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
reactant | ethyl 1-bromocyclobutanecarboxylate | BrC1(CCC1)C(=O)OCC | C7H11BrO2
product | 6-(Cycloheptylamino)-5-thia-7-azaspiro[3.4]oct-6-en-8-one | C1(CCCCCC1)NC=1SC2(CCC2)C(N1)=O | C13H20N2OS
